US04508926
4-Fluoro-4'-hydroxy-α-ethyl-benzhydrol
To a solution of ethyl lithium prepared from 2.8 g. of lithium metal and 21.8 g. of ethyl bromide in 265 ml. of dry ether a solution of 10.8 g. of 4-fluoro-4'-hydroxy-benzophenone in 50 ml. of dry tetrahydrofurane is added dropwise, with stirring in argon atmosphere, at a temperature between -40° C. and -30° C. When the addition is complete, the mixture is allowed to warm up to 0° C., and is then stirred at this temperature for further 30 minutes. The mixture is decomposed with a 20% aqueous ammonium chloride solution under cooling. The aqueous phase is extracted with ether, the ethereal phases are combined, washed to neutral with water, and dried over anhydrous magnesium sulfate. The solution is evaporated under reduced pressure, and the solid residue is crystallized from a mixture of n-hexane and ethyl acetate to yield 8.2 g. of the named product, melting at 125° to 126° C.

reactant | ethyl lithium | C(C)[Li]
reactant | lithium | [Li] | Li
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | 4-fluoro-4'-hydroxy-benzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H9FO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Fluoro-4'-hydroxy-α-ethyl-benzhydrol | FC1=CC=C(C(C2=CC=C(C=C2)O)(O)CC)C=C1 | C15H15FO2
